US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(2-(4-methylpiperazin-1-yl)ethoxy)pyrimidin-2-yl)morpholine (Compound 16)
(S)-4-(5-(2-chloroethoxy)pyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine 9 mg (0.019 mmol) was dissolved in DMF 1 ml, and 1-methylpiperazine 4 μl (0.39 mmol) and KI 4 mg (0.022 mmol) were added. The mixture was stirred at 75° C. overnight. When the reaction was completed, the reaction mixture was extracted several times with ethyl acetate and brine, and the organic layer was dried over Na2SO4. Prep LC with 7% MeOH/MC gave a product 7.8 mg (76%).

reactant | (S)-4-(5-(2-chloroethoxy)pyrimidin-2-yl)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine | 0.019 mmol, 9 mg | ClCCOC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C19H21ClN10O2
reactant | 1-methylpiperazine | 0.39 mmol, 4 μl | CN1CCNCC1 | C5H12N2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(2-(4-methylpiperazin-1-yl)ethoxy)pyrimidin-2-yl)morpholine | 7.8 mg, 76% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)OCCN2CCN(CC2)C | C24H32N12O2
